US04705785
2-Hydroxyethyl 3,4,5,8-tetrahydro-6-methyl-8-(3-nitrophenyl)-1,1-dioxo-2H-thiopyrano [3,2-b]pyridine-7-carboxylate
A mixture of tetrahydrothiopyran-3-one-1, 1-dioxide (2.80 g, 0.0189 moles), 3-nitrobenzaldehyde (2.85 g, 0.0189 moles), 2-hydroxyethyl-3-aminocrotonate (3.28 g, 0.0226 moles), ammonium acetate (0.291 g, 0.0038 moles) and ethanol (35 mL) was refluxed for 16 hours. After cooling to room temperature the resulting solid was isolated by filtration, washed with ethanol and diethyl ether. The product was dried under vacuum for 16 hours at room temperature affording the product; mp 233°-235° C.

reactant | tetrahydrothiopyran-3-one-1, 1-dioxide | 0.0189 moles, 2.80 g | S1(CC(CCC1)=O)(=O)=O | C5H8O3S
reactant | 3-nitrobenzaldehyde | 0.0189 moles, 2.85 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-hydroxyethyl-3-aminocrotonate | 0.0226 moles, 3.28 g | OCCOC(\C=C(\C)/N)=O | C6H11NO3
reactant | ammonium acetate | 0.0038 moles, 0.291 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 2-Hydroxyethyl 3,4,5,8-tetrahydro-6-methyl-8-(3-nitrophenyl)-1,1-dioxo-2H-thiopyrano [3,2-b]pyridine-7-carboxylate | CC1=C(C(C2=C(N1)CCCS2(=O)=O)C2=CC(=CC=C2)[N+](=O)[O-])C(=O)OCCO | C18H20N2O7S
